US05132475
In a 10 mL round-bottom flask, 1.02 g of phenylacetylene (10 mmol), 2.1 g bromotrichloromethane (10.5 mmol) and 100 mg of tetra-n-butylammonium fluoride trihydrate (0.316 mmol) were stirred at 24° C. for 15 min. The temperature of the mixture rose to 33° C. in the course of the process. Analysis of the resulting mixture showed that it contained 1.72 g of 1-bromo-2-phenylacetylene (95% yield) and 0.05 g of the unconverted phenylacetylene.

reactant | phenylacetylene | 10 mmol, 1.02 g | C1(=CC=CC=C1)C#C | C8H6
reactant | bromotrichloromethane | 10.5 mmol, 2.1 g | BrC(Cl)(Cl)Cl | CBrCl3
catalyst | tetra-n-butylammonium fluoride trihydrate | 0.316 mmol, 100 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | phenylacetylene | 0.05 g | C1(=CC=CC=C1)C#C | C8H6
product | 1-bromo-2-phenylacetylene | 1.72 g, 95% yield | BrC#CC1=CC=CC=C1 | C8H5Br
